US05128355
Part B: Preparation of 1-[(2'-Carbomethoxybiphenyl-4-yl)methyl]-4,5-dicarbomethoxy-2-n-propylimidazole
2-n-Propyl-4,5-dicarbomethoxyimidazole (2.00 g, 8.8 mmol, 1 eq.) was alkylated with 4'-bromomethyl-2-carbomethoxybiphenyl (2.70 g, 8.8 mmol, 1 eq.) by the procedure described in Example 1, Part A. Obtained 3.87 g of a yellow oil which was suitable for further transformation. NMR (DMSO-d6): δ 7.84-7.22 (m, 4H); 7.22 (d, 2H, J=9Hz); 7.13 (d, 2H, J=9Hz); 5.50 (s, 2H); 3.77 (s, 3H); 3.75 (s, 3H); 3.55 (s, 3H); 2.67 (t, 2H, J=7Hz); 1.67 (t of q, 2H, J=7,7Hz); 0.88 (t, 3H, J=7Hz).

reactant | 2-n-Propyl-4,5-dicarbomethoxyimidazole | 8.8 mmol, 2.00 g, 1 eq. | C(CC)C=1NC(=C(N1)C(=O)OC)C(=O)OC | C10H14N2O4
reactant | 4'-bromomethyl-2-carbomethoxybiphenyl | 8.8 mmol, 2.70 g, 1 eq. | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC | C15H13BrO2
product | 1-[(2'-Carbomethoxybiphenyl-4-yl)methyl]-4,5-dicarbomethoxy-2-n-propylimidazole | 3.87 g | C(=O)(OC)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C(=O)OC)C(=O)OC)CCC | C25H26N2O6
